US04644055
A mixed anhydride of Z-Phe-Gly-Ala-OH (0.41 g, 0.95 mmol) was prepared and coupled to H-LeuCH2Br.HBR substantially according to the procedure described for preparation of Z-Phe-Gly-Leu-LeuCH2Cl, above. The resulting product was crystallized from ethyl acetate:hexane to yield 0.30 g. Product was recrystallized from the same solvents to yield 0.07 g, m.p. 135.5°-138° (dec.).

reactant | H-LeuCH2Br | N[C@@H](CC(C)C)C(=O)CBr | C7H14BrNO
reactant | Z-Phe-Gly-Leu-LeuCH2Cl | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)CCl)C(=O)OCC1=CC=CC=C1 | C32H43ClN4O6
product | Z-Phe-Gly-Ala-OH | 0.95 mmol, 0.41 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C22H25N3O6
